US07888364B2
4.2 g of methyl 2-chloro-4-(methylsulfonamido)benzoate was hydrolyzed via Procedure M. 1 g of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 1.35 g of 2-chloro-4-(methylsulfonamido)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonamido)benzamide. MS (Q1) 436.1 (M)+.

reactant | methyl 2-chloro-4-(methylsulfonamido)benzoate | 4.2 g | ClC1=C(C(=O)OC)C=CC(=C1)NS(=O)(=O)C | C9H10ClNO4S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 1 g | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-4-(methylsulfonamido)benzoic acid | 1.35 g | ClC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C8H8ClNO4S
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonamido)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)NS(=O)(=O)C | C19H15Cl2N3O3S
